US07507740B2
(i) Production of 4-chloro-5-(2-ethoxyethyl)-6-(2-furyl)-5H-pyrrolo[3,2-d]pyrimidine
To a solution of 4-chloro-6-(2-furyl)-5H-pyrrolo[3,2-d]pyrimidine (220 mg) in N,N-dimethylformamide (1.2 mL) was added cesium carbonate (489 mg) under ice-cooling, and the mixture was stirred under ice-cooling for 15 min. 2-Bromoethyl ethyl ether (0.169 mL) was added and the mixture was stirred at room temperature for 2 days. Cesium carbonate (326 mg) and 2-bromoethyl ethyl ether (0.113 mL) were added and the mixture was stirred at room temperature for 1 day. The reaction mixture was poured into water (30 mL) and extracted with ethyl acetate (60 mL). The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=4:1→1:4) to give the title compound (76 mg).

reactant | 4-chloro-6-(2-furyl)-5H-pyrrolo[3,2-d]pyrimidine | 220 mg | ClC=1C2=C(N=CN1)C=C(N2)C=2OC=CC2 | C10H6ClN3O
reactant | cesium carbonate | 489 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-Bromoethyl ethyl ether | 0.169 mL | C(C)OCCBr | C4H9BrO
reactant | Cesium carbonate | 326 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoethyl ethyl ether | 0.113 mL | C(C)OCCBr | C4H9BrO
reactant | water | 30 mL | O | H2O
solvent | N,N-dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
product | 4-chloro-5-(2-ethoxyethyl)-6-(2-furyl)-5H-pyrrolo[3,2-d]pyrimidine | 76 mg | ClC=1C2=C(N=CN1)C=C(N2CCOCC)C=2OC=CC2 | C14H14ClN3O2
